US20010047031A1
(RS)-3-[1-(3-Phenyl-propyl)-pyrrolidin-3-yl-sulfanyl]-phenol
The title compound, MS: m/e=314.3 (M+H+) was prepared from (RS)-3-(pyrrolidin-3-yl-sulfanyl)-phenol hydrochloride and 3-phenylpropionaldehyde.

reactant | (RS)-3-(pyrrolidin-3-yl-sulfanyl)-phenol hydrochloride | Cl.N1CC(CC1)SC=1C=C(C=CC1)O
reactant | 3-phenylpropionaldehyde | C1(=CC=CC=C1)CCC=O | C9H10O
product | (RS)-3-[1-(3-Phenyl-propyl)-pyrrolidin-3-yl-sulfanyl]-phenol | C1(=CC=CC=C1)CCCN1CC(CC1)SC=1C=C(C=CC1)O | C19H23NOS
